US04939253
(B) (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-4-methyl-2-oxo-1-azetidinyl]oxy]acetic acid, diphenylmethyl ester
Triethylamine (0 61 g, 6.0 mmol was dropped into a solution of (3S-trans)-3-(t-butyloxy-carbonylamino)-1-hydroxy-4-methyl-2-azetidinone (1.08 g. 5.0 mmol) and diphenylmethylchloroacetate (1.43 g. 5.5 mmol) in 10 ml of dry dimethylformamide. The mixture was stirred overnight at room temperature. The precipitate was removed by filtration and the solvent was stripped in vacuo. The residue was taken up in ethyl acetate, filtered, washed with 5% NaHCO3 solution and with water, dried over MgSO4 and evaporated in vacuo to give a colorless oil; yield 2.0 g. By storing in a refrigerator the title compound crystallized, melting point 73°-74° C.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | (3S-trans)-3-(t-butyloxy-carbonylamino)-1-hydroxy-4-methyl-2-azetidinone | 5.0 mmol, 1.08 g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C)O)=O | C9H16N2O4
reactant | diphenylmethylchloroacetate | 5.5 mmol, 1.43 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(CCl)=O | C15H13ClO2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-4-methyl-2-oxo-1-azetidinyl]oxy]acetic acid, diphenylmethyl ester | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C)OCC(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C24H28N2O6
